US06617350B2
(3S,3aR,6aS)hexahydrofuro[2,3-b]furan-3-yl N-((1S,2R)-3-[4-([(2-amino-2-oxoethyl)amino]carbonylamino)-2,2-dimethylbutyl][(4-methoxyphenyl)sulfonyl]amino-1-benzyl-2-hydroxypropyl)carbamate
A solution of 22 mg (0.030 mmol) of a 1:1 mixture of ethyl (3S,4R)-1-[(3R,3aS,6aR)hexahydrofuro [2,3-b]furan-3-yloxy]-3-benzyl-4-hydroxy-6-[(4-methoxyphenyl)sulfonyl]-8,8-dimethyl-1,12-dioxo-2,6,11,13-tetraazapentadecan-15-oate and ethyl (3S,4R)-1-[(3S,3aR,6aS)hexahydrofuro[2,3-b]furan-3-yloxy]-3-benzyl-4-hydroxy-6-[(4-methoxyphenyl)sulfonyl]-8,8-dimethyl-1,12-dioxo-2,6,11,13-tetraazapentadecan-15-oate in 3 mL of 2M NH3 in MeOH in a sealed tube was stirred at RT. After 5 days the solution was concentrated in vacuo and the residue subjected to flash chromatography (SiO2, 93:7 CH2Cl2/2M NH3 in MeOH) to afford 11 mg (52%) of the desired product as a white foam.

reactant | ethyl (3S,4R)-1-[(3R,3aS,6aR)hexahydrofuro [2,3-b]furan-3-yloxy]-3-benzyl-4-hydroxy-6-[(4-methoxyphenyl)sulfonyl]-8,8-dimethyl-1,12-dioxo-2,6,11,13-tetraazapentadecan-15-oate | O1C[C@@H]([C@H]2[C@@H]1OCC2)OC(N[C@H]([C@@H](CN(CC(CCNC(NCC(=O)OCC)=O)(C)C)S(=O)(=O)C2=CC=C(C=C2)OC)O)CC2=CC=CC=C2)=O | C35H50N4O11S
reactant | ethyl (3S,4R)-1-[(3S,3aR,6aS)hexahydrofuro[2,3-b]furan-3-yloxy]-3-benzyl-4-hydroxy-6-[(4-methoxyphenyl)sulfonyl]-8,8-dimethyl-1,12-dioxo-2,6,11,13-tetraazapentadecan-15-oate | O1C[C@H]([C@@H]2[C@H]1OCC2)OC(N[C@H]([C@@H](CN(CC(CCNC(NCC(=O)OCC)=O)(C)C)S(=O)(=O)C2=CC=C(C=C2)OC)O)CC2=CC=CC=C2)=O | C35H50N4O11S
reactant | NH3 | 2M, 3 mL | N | H3N
solvent | MeOH | CO | CH4O
product | (3S,3aR,6aS)hexahydrofuro[2,3-b]furan-3-yl N-((1S,2R)-3-[4-([(2-amino-2-oxoethyl)amino]carbonylamino)-2,2-dimethylbutyl][(4-methoxyphenyl)sulfonyl]amino-1-benzyl-2-hydroxypropyl)carbamate | 11 mg, 52% | NC(CNC(=O)NCCC(CC([C@@H]([C@H](CC1=CC=CC=C1)NC(O[C@@H]1CO[C@@H]2OCC[C@@H]21)=O)O)NS(=O)(=O)C2=CC=C(C=C2)OC)(C)C)=O | C33H47N5O10S
